US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(2,4-dichlorophenyl)amino]carbonyl}-amino)-1-benzothiophene-2-carboxamide hydrochloride
A solution of 40 mg (0.11 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF is mixed with 29.8 μl (0.21 mmol) of triethylamine and 40.2 mg (0.21 mmol) of 2,4-dichlorophenyl isocyanate. After 18 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of acetonitrile and 1 N hydrochloric acid (5:1), again concentrated and dried under high vacuum. 25 mg (44.5% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.11 mmol, 40 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.21 mmol, 29.8 μl | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichlorophenyl isocyanate | 0.21 mmol, 40.2 mg | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(2,4-dichlorophenyl)amino]carbonyl}-amino)-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC1=C(C=C(C=C1)Cl)Cl | InChI=1S/C23H22Cl2N4O2S.ClH/c24-15-2-4-18(17(25)10-15)28-23(31)26-16-3-1-14-9-21(32-20(14)11-16)22(30)27-19-12-29-7-5-13(19)6-8-29;/h1-4,9-11,13,19H,5-8,12H2,(H,27,30)(H2,26,28,31);1H/t19-;/m0./s1
